US06573279B1
A conventional alkylation reaction was carried out using a dimethylformamide solution (10 ml) of 1.77 g of 2-(3,4-dimethoxyphenyl)acetonitrile, 1.00 g of sodium hydride and 4.26 g of methyl iodide to give 1.78 g of 2-(3,4-dimethoxyphenyl)-2-methylpropionitrile. A conventional catalytic hydrogenation reaction was carried out using an ethanolic solution (30 ml) of 1.75 g of 2-(3,4-dimethoxyphenyl)-2-methylpropionitrile, 3.0 ml of an aqueous 28% ammonia solution and 4.3 g of Raney nickel to give 1.59 g of 2-(3,4-dimethoxyphenyl)-2-methylpropylamine. Then, a conventional cyclization reaction was carried out using a formic acid solution (8 ml) of 1.58 g of 2-(3,4-dimethoxyphenyl)-2-methylpropylamine and 0.252 g of paraformaldehyde to give 1.34 g of 6,7-dimethoxy-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline as a pale yellow oily substance. A conventional alkylation reaction was carried out using a solution (10 ml) of 1.77 g of 2-(3,4-dimethoxyphenyl)acetonitrile in dimethylformamide, 1.00 g of sodium hydride and 4.26 g of methyl iodide to give 1.78 g of 2-(3,4-dimethoxyphenyl)-2-methylpropionitrile.

reactant | ammonia | N | H3N
reactant | 2-(3,4-dimethoxyphenyl)-2-methylpropionitrile | 30 ml, 1.75 g | COC=1C=C(C=CC1OC)C(C#N)(C)C | C12H15NO2
catalyst | Raney nickel | 4.3 g | [Ni] | Ni
product | 2-(3,4-dimethoxyphenyl)-2-methylpropylamine | 1.59 g | COC=1C=C(C=CC1OC)C(CN)(C)C | C12H19NO2
